data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-CC(C)C_2-C(C)(C)C_3-C(C(F)(F)F)C(F)(F)F_4-c1c(F)c(F)c(F)c(F)c1F","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["CC(C)CC(=O)[H]","C(C)(C)COC(=O)CP(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1c(F)c(F)c(F)c(F)c1F)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["CC(C)C/C=C\\C(=O)OC(C)(C)C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)COC(=O)[CH-]P(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1c(F)c(F)c(F)c(F)c1F)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)C(P(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1c(F)c(F)c(F)c(F)c1F))C([O-])CC(C)C","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)C1C(CC(C)C)OP1([O-])(OC(C(F)(F)F)C(F)(F)F)(Oc1c(F)c(F)c(F)c(F)c1F)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(C)C/C=C\\C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-312_10-[Si](C)(C)C_1-F_2-OC_3-C(=O)OC_4-Cl_5-C1CCCCC1_6-C=C_7-c2nccs2_8-c2ccc(C(F)(F)F)cc2_9-C","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(F)c(OC)c(C(=O)OC)c(Cl)c(C1CCCCC1)c1O","c1(C=C)c(c2nccs2)c(c2ccc(C(F)(F)F)cc2)c(C)c([Si](C)(C)C)c1I"],"products_smiles": ["c1(F)c(OC)c(C(=O)OC)c(Cl)c(C1CCCCC1)c1Oc2c(C=C)c(c2nccs2)c(c2ccc(C(F)(F)F)cc2)c(C)c2([Si](C)(C)C)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(F)c(OC)c(C(=O)OC)c(Cl)c(C1CCCCC1)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=C)c(c2nccs2)c(c2ccc(C(F)(F)F)cc2)c(C)c([Si](C)(C)C)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(C=C)c(c2nccs2)c(c2ccc(C(F)(F)F)cc2)c(C)c([Si](C)(C)C)c2[Cu](I)Oc1c(F)c(OC)c(C(=O)OC)c(Cl)c1(C1CCCCC1)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(F)c(OC)c(C(=O)OC)c(Cl)c(C1CCCCC1)c1Oc2c(C=C)c(c2nccs2)c(c2ccc(C(F)(F)F)cc2)c(C)c2([Si](C)(C)C)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
